US05229403
45 g of N-(5-trifluoromethyl-2-pyridyl)ethanesulfonamide was dissolved in 112.5 ml of acetic acid. While heating it to a temperature of from 100° to 105° C., 26 g of fuming nitric acid (94%) was dropwise added, and the mixture was reacted for further 6 hours. The reaction product was left to cool to 80° C., and then poured into 2 l of ice water. Precipitated crystals were collected by filtration, washed with water and dried to obtain 47.8 g of N-(3-nitro-5-trifluoromethyl-2-pyridyl)ethanesulfonamide.

reactant | N-(5-trifluoromethyl-2-pyridyl)ethanesulfonamide | 45 g | FC(C=1C=CC(=NC1)NS(=O)(=O)CC)(F)F | C8H9F3N2O2S
reactant | nitric acid | 26 g | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 112.5 ml | C(C)(=O)O | C2H4O2
product | N-(3-nitro-5-trifluoromethyl-2-pyridyl)ethanesulfonamide | 47.8 g | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)NS(=O)(=O)CC | C8H8F3N3O4S
